US05688808
To a solution of 3-aminothiophenol (500 mg, 4.0 mmol) and di-t-butyl dicarbonate (872 mg, 4.0 mmol) in 10 mL of dry dichloromethane at 0° C. was added dropwise, triethylamine (557 mL, 4.0 mmol). When the addition was complete, the reaction was allowed to warm to rt and the resulting mixture was stirred for 16 h. The reaction mixture was concentrated in vacuo and the residue was then diluted with 20 mL of ethyl acetate and washed with water (2×10 mL), dried (Na2SO4) and concentrated in vacuo to an oil that was subjected to flash chromatography (silica gel, hexanes/ethyl acetate, 7:3) which gave 274 mg (30%) of 3-amino-S-t-butyloxycarbonyl thiophenol as a clear oil. Data for 3-amino-S-t-butyloxycarbonyl thiophenol: 1H NMR (400 MHz, CDCl3) 7.12 (apparent t, J=8.2, 1H), 6.90 (d, J=8.2, 1H), 6.84 (d, J=2.2, 1H), 6.68 (dd, J=8.2, 2.2, 1H), 3.68 (br s, 2H), 1.56 (s, 9H).

reactant | 3-aminothiophenol | 4.0 mmol, 500 mg | NC=1C=C(C=CC1)S | C6H7NS
reactant | di-t-butyl dicarbonate | 4.0 mmol, 872 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.0 mmol, 557 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-amino-S-t-butyloxycarbonyl thiophenol | 274 mg, 30% | NC=1C=C(C=CC1)SC(=O)OC(C)(C)C | C11H15NO2S
